US08975400B2
7-((4-(3,4-difluorophenoxy)-3-(trifluoromethyl)benzyl)oxy)-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one
Prepared in a manner similar to that described for E71 using tert-butyl 7-((4-(3,4-difluorophenoxy)-3-(trifluoromethyl)benzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylat in DMF (2 mL) and silica gel.

reactant | tert-butyl 7-((4-(3,4-difluorophenoxy)-3-(trifluoromethyl)benzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrimidine-1(5H)-carboxylat | FC=1C=C(OC2=C(C=C(COC=3C=C4N(C(N3)=O)CCN4C(=O)OC(C)(C)C)C=C2)C(F)(F)F)C=CC1F | C25H22F5N3O5
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 7-((4-(3,4-difluorophenoxy)-3-(trifluoromethyl)benzyl)oxy)-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | FC=1C=C(OC2=C(C=C(COC=3C=C4N(C(N3)=O)CCN4)C=C2)C(F)(F)F)C=CC1F | C20H14F5N3O3
